** sch_path: /home/tare/EECE_Projects/Analog_IC_project1/Design/Testbench_OL.sch
**.subckt Testbench_OL
x1 VOUT VIN GND Idead_opamp
V1 VIN GND DC 0 AC 1
**** begin user architecture code


ac


**** end user architecture code
**.ends

* expanding   symbol:  Idead_opamp.sym # of pins=3
** sym_path: /home/tare/EECE_Projects/Analog_IC_project1/Design/Idead_opamp.sym
** sch_path: /home/tare/EECE_Projects/Analog_IC_project1/Design/Idead_opamp.sch
.subckt Idead_opamp VOUT V- V+
*.iopin V-
*.iopin V+
*.iopin VOUT
E1 VOUT GND V+ V- 10000
.ends

.GLOBAL GND
.end
